US07851473B2
N-(3,4-Dimethylisoxazol-5-yl)-4-[4-(3-methoxyphenyl)-1,3-thiazol-2-yl]piperazine-1-carboxamide
A mixture of 2,2,2-trichloroethyl (3,4-dimethylisoxazol-5-yl)carbamate (230 mg, 0.799 mmol), 1-[4-(3-methoxyphenyl)-1,3-thiazol-2-yl]piperazine (200 mg, 0.726 mmol) and diisopropylethylamine (0.253 ml, 1.45 mmol) in dimethyl sulfoxide (2.5 ml) was stirred at 70° C. for 15 hours. Water was poured to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1), and recrystallized from a mixed solvent of hexane and ethyl acetate to give 129 mg (42.8%) of the desired product as a solid. mp 158-159° C.

reactant | 2,2,2-trichloroethyl (3,4-dimethylisoxazol-5-yl)carbamate | 0.799 mmol, 230 mg | CC1=NOC(=C1C)NC(OCC(Cl)(Cl)Cl)=O | C8H9Cl3N2O3
reactant | 1-[4-(3-methoxyphenyl)-1,3-thiazol-2-yl]piperazine | 0.726 mmol, 200 mg | COC=1C=C(C=CC1)C=1N=C(SC1)N1CCNCC1 | C14H17N3OS
reactant | diisopropylethylamine | 1.45 mmol, 0.253 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | N-(3,4-Dimethylisoxazol-5-yl)-4-[4-(3-methoxyphenyl)-1,3-thiazol-2-yl]piperazine-1-carboxamide | 129 mg, 42.8% | CC1=NOC(=C1C)NC(=O)N1CCN(CC1)C=1SC=C(N1)C1=CC(=CC=C1)OC | C20H23N5O3S
